US05530025
(R)-N-(4-Cyano-2-ethyl-phenyl)-N-[3,4-dioxo-2-(1,2,2-trimethyl-propylamino)-cyclobut-1-enyl]-propionamide
(+)-(R)-4-[3,4-Dioxo-2-(1,2,2-trimethyl-propylamino)-cyclobut-1-enylamino]-3-ethylbenzonitrile (0.40 g, 1.23 mmol), propionic anhydride (0.47 mL, 3.67 mmol) and pyridine (3.7 mL) were mixed and allowed to stand at room temperature for 24 hours. The reaction mixture was filtered to remove undissolved solid material and the filtercake was rinsed with dichloromethane. The combined tiltrate was concentrated and the resulting yellow gum was crystallized with hexanes (20 mL). Solvent was decanted off and the solid material was triturated with hexanes to afford the title compound as 0.45 g (96%) of an off-white solid: 1H NMR (CDCl3): δ 7.70 (s, 1H), 7.62 (m, 1H), 7.52 (m, 1H), 7.37 (m, 1H), 4.28 (m, 1H), 2.70-2.50 (m, 2H), 2.20-2.09 (m, 1H), 2.03-1.92 (m, 1H), 1.30-1.24 (m, 6H), 1.09 (t, 3H), 1.00 (d, 9H). IR (KBr): 3330, 2970, 2230, 1800, 1730, 1680, 1610 cm-1 ; MS (m/z) 381 (M+).

reactant | (+)-(R)-4-[3,4-Dioxo-2-(1,2,2-trimethyl-propylamino)-cyclobut-1-enylamino]-3-ethylbenzonitrile | 1.23 mmol, 0.40 g | O=C1C(=C(C1=O)NC1=C(C=C(C#N)C=C1)CC)N[C@@H](C(C)(C)C)C | C19H23N3O2
reactant | propionic anhydride | 3.67 mmol, 0.47 mL | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | pyridine | 3.7 mL | N1=CC=CC=C1 | C5H5N
product | (R)-N-(4-Cyano-2-ethyl-phenyl)-N-[3,4-dioxo-2-(1,2,2-trimethyl-propylamino)-cyclobut-1-enyl]-propionamide | C(#N)C1=CC(=C(C=C1)N(C(CC)=O)C1=C(C(C1=O)=O)N[C@@H](C(C)(C)C)C)CC | C22H27N3O3
